US08580812B2
Step 4. 4-[(Adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester
BOP (11 g, 24 mmol) is added to a slurry of pyrazolo[1,5-a]pyridine-2,4-dicarboxylic acid 2-ethyl ester (5.6 g, 24 mmol), adamantan-1-ylmethylamine (4.4 g, 27 mmol), iPr2NEt (21 mL, 120 mmol), and DMF (240 mL) under N2. The reaction vessel is sealed and the mixture is left to stir for 15 h. EtOAc (200 mL) is added. The solution is washed with 50% sat. aq. NH4Cl (2×500 mL). The aqueous phases are extracted with EtOAc (3×200 mL). The combined organics are dried over Na2SO4, filtered, and concentrated. Purification by flash column chromatography (2:1 hexanes:EtOAc to 1:1 hexanes:EtOAc) affords the title compound as a tan solid. 1H NMR (400 MHz, CDCl3) δ: 8.62 (d, 1H), 7.60 (d, 1H), 7.44 (s, 1H), 7.00 (t, 1H), 6.23 (bs, 1H), 4.48 (q, 2H), 3.23 (d, 2H), 1.98-2.07 (m, 3H), 1.57-1.78 (m, 12H), 1.45 (t, 3H). LC-MS m/z (M+H+): 382.2; RT=1.09 min.

reactant | BOP | 24 mmol, 11 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | pyrazolo[1,5-a]pyridine-2,4-dicarboxylic acid 2-ethyl ester | 24 mmol, 5.6 g | CCOC(=O)C1=NN2C(C(=CC=C2)C(=O)O)=C1 | C11H10N2O4
reactant | adamantan-1-ylmethylamine | 27 mmol, 4.4 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | iPr2NEt | 120 mmol, 21 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 240 mL | CN(C)C=O | C3H7NO
product | 4-[(Adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN2C(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)=C1 | C22H27N3O3
